US05110956
Sodium 3-(6-propyl-1,3-benzodioxole-5-yl)propionate
29.2 ml of a 1N aqueous sodium hydroxide solution and 100 ml of ethanol were added to 6.9 g of 3-(6-propyl-1,3-benzodioxole-5-yl)propionic acid to obtain a solution. The solvent was distilled off and ether was added to the residue. A precipitate thus formed was recovered by filtration and dried to obtain 7.5 g of the intended compound in the form of a colorless powder.

reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | 3-(6-propyl-1,3-benzodioxole-5-yl)propionic acid | 6.9 g | C(CC)C=1C(=CC2=C(OCO2)C1)CCC(=O)O | C13H16O4
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Sodium 3-(6-propyl-1,3-benzodioxole-5-yl)propionate | 7.5 g | C(CC)C=1C(=CC2=C(OCO2)C1)CCC(=O)[O-].[Na+] | InChI=1S/C13H16O4.Na/c1-2-3-9-6-11-12(17-8-16-11)7-10(9)4-5-13(14)15;/h6-7H,2-5,8H2,1H3,(H,14,15);/q;+1/p-1
